US03987171
3-Amino-6-chloro-2-valeramidoquinoxaline
A solution of 12 parts of 6-chloro-2,3 bis(valeramido)quinoxaline and 2.5 parts of pyrrolidine in 220 parts of tetrahydrofuran was permitted to stand at ambient temperature for seven days. The solution was then poured into 750 parts of water and the solid which separated was removed by filtration and washed with water, pressed dry, and washed with hexane. The crude product was dissolved in 108 parts of boiling ethyl acetate and the resulting solution filtered. Upon addition of 100 parts of hexane and subsequent cooling, the solution deposited 3 parts of 3-amino-6-chloro-2-valeramidoquinoxaline as a pale yellow solid, m.p. 224°-228° C.

reactant | 6-chloro-2,3 bis(valeramido)quinoxaline | ClC=1C=C2N=C(C(=NC2=CC1)NC(CCCC)=O)NC(CCCC)=O | C18H23ClN4O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-Amino-6-chloro-2-valeramidoquinoxaline | NC=1C(=NC2=CC=C(C=C2N1)Cl)NC(CCCC)=O | C13H15ClN4O
